US08022223B2
3-Phenoxypyridin-2-amine (20.50 g, 110.1 mmol) was placed in acetic acid (50 mL) and cooled to 0° C. Bromine (d 3.12) (7.049 mL, 137.6 mmol) was slowly added and the reaction mixture was stirred for 1 hour. The reaction mixture was poured onto saturated sodium bisulfite and ice and allowed to sit overnight. Solids were removed by filtration and washed with water to give pure 5-bromo-3-phenoxypyridin-2-amine. The filtrate was then extracted with CH2Cl2 several times, combined, and washed with water. Organic layer was dried, filtered, and concentrated. The residue was purified by silica gel (5-20% EtOAc in hexanes) to give additional 5-bromo-3-phenoxypyridin-2-amine (total yield: 22.69 g, 77.74% yield).

reactant | 3-Phenoxypyridin-2-amine | 110.1 mmol, 20.50 g | O(C1=CC=CC=C1)C=1C(=NC=CC1)N | C11H10N2O
reactant | Bromine | 137.6 mmol, 7.049 mL | BrBr | Br2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-3-phenoxypyridin-2-amine | BrC=1C=C(C(=NC1)N)OC1=CC=CC=C1 | C11H9BrN2O
